US09034881B2
4-(prop-2-ynyloxy)aniline (0.750 g, 5.10 mmol) and 2,4-dichloro-5-fluoropyrimidine (1.27 g, 0.760 mmol, commercially available from Sigma-Aldrich of Milwaukee, Wis., USA) were stirred in MeOH/water (4:1, 35 mL) at room temperature for 18 h. The reaction mixture was diluted with EtOAc (200 mL) and washed with 1N HCl (50 mL) and brine (50 mL). The organic layer was dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (silica gel, hexanes ramped to EtOAc:hexanes (1:10)) to provide 2-chloro-5-fluoro-N4-[4-(prop-2-ynyloxy)phenyl]-4-pyrimidineamine as a light brown solid (0.514 g). 1H NMR (CDCl3): δ 8.03 (d, J=2.7 Hz, 1H), 7.53 (d, J=8.7 Hz, 2H), 7.02 (d, J=8.7 Hz, 2H), 6.86 (s, 1H), 4.71 (d, J=2.4 Hz, 2H), 2.55 (t, J=2.4 Hz, 1H); LCMS: purity: 99%; MS (m/e): 279 (MH+).

reactant | 4-(prop-2-ynyloxy)aniline | 5.10 mmol, 0.750 g | C(C#C)OC1=CC=C(N)C=C1 | C9H9NO
reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
solvent | MeOH water | 35 mL | CO.O
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 2-chloro-5-fluoro-N4-[4-(prop-2-ynyloxy)phenyl]-4-pyrimidineamine | 0.514 g | ClC1=NC=C(C(=N1)NC1=CC=C(C=C1)OCC#C)F | C13H9ClFN3O
